US06229014B1
4-Cyano-N-ethoxycarbonylpiperidine
A mixture of 4-acetamido-N-ethoxycarbonylpiperidine (17.0 g) and acetonitrile (200 ml) was cooled to 0° C., and 15.5 g of thionyl chloride was added dropwise, under nitrogen, with stirring. The reaction mixture was allowed to warm to ambient temperature. To the reaction mixture was added 2-propanol (20 ml) and the mixture was heated under reflux for 1 hr. Ethyl acetate was added, the layers were separated, and the organic phase was washed with 5% sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed on a preparatory liquid chromatograph, eluting with 4:1-heptane:ethyl acetate. The appropriate fractions were collected and evaporated to give 15 g of residue. A 4-g sample of the residue was distilled to give 3.5 g (84.6%) of product, bp 130° C. (4 mm mercury).

reactant | 4-acetamido-N-ethoxycarbonylpiperidine | 17.0 g | C(C)(=O)NC1CCN(CC1)C(=O)OCC | C10H18N2O3
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | thionyl chloride | 15.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-propanol | 20 ml | CC(C)O | C3H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-N-ethoxycarbonylpiperidine | 15 g | C(#N)C1CCN(CC1)C(=O)OCC | C9H14N2O2
